US09428502B2
Compound 75.1. 4-(4-Bromophenyl)-4H-1,2,4-triazole
Into a 100-mL round-bottom flask, was placed a solution of 4-bromoaniline (1.71 g, 9.94 mmol), N′-formylformohydrazide (2.64 g, 30.0 mmol), and triethylamine (9.74 mL, 69.9 mmol, 7.00 equiv) in pyridine (40 mL). Chlorotrimethylsilane (19.2 mL, 151 mmol) was added drop-wise and the resulting solution was stirred for 18 h at 100° C., then cooled to room temperature. The resulting mixture was concentrated under reduced pressure and the residue was diluted with brine (50 mL) and extracted with ethyl acetate (6×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was washed with ether (30 mL) and the solids were collected by filtration to yield the title compound as a pink solid (1.6 g, 72%).

reactant | 4-bromoaniline | 9.94 mmol, 1.71 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | N′-formylformohydrazide | 30.0 mmol, 2.64 g | C(=O)NNC=O | C2H4N2O2
reactant | triethylamine | 69.9 mmol, 9.74 mL, 7.00 equiv | C(C)N(CC)CC | C6H15N
reactant | Chlorotrimethylsilane | 151 mmol, 19.2 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-Bromophenyl)-4H-1,2,4-triazole | 1.6 g, 72% | BrC1=CC=C(C=C1)N1C=NN=C1 | C8H6BrN3
